US07863329B2
Step C. (2,6-Dimethyl-4′-trifluoromethyl-biphenyl-4-yl)-methanol
To the solution of 2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-carbaldehyde (3.0 g, 10.8 mmol) in MeOH (20 ml) is added NaBH4 (410 mg, 10.8 mmol). The mixture is stirred at room temperature for about 2 h, diluted with ethyl acetate, washed with 1N HCl, water, brine, dried over MgSO4, and concentrated to afford 2.5 g of the titled compound as a white solid. 1H-NMR.

reactant | 2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-carbaldehyde | 10.8 mmol, 3.0 g | CC1=C(C(=CC(=C1)C=O)C)C1=CC=C(C=C1)C(F)(F)F | C16H13F3O
reactant | NaBH4 | 10.8 mmol, 410 mg | [BH4-].[Na+]
solvent | MeOH | 20 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2,6-Dimethyl-4′-trifluoromethyl-biphenyl-4-yl)-methanol | 2.5 g | CC1=C(C(=CC(=C1)CO)C)C1=CC=C(C=C1)C(F)(F)F | C16H15F3O
